US05523403
(S)-N-[[3-[3-fluoro-4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A slurry of (S)-N-[[3-(3-fluoro-4-iodophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide described above (4.200 g, 11.11 mmol) and trimethyl(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)tin (4.150 g, 13.88 mmol) in 1,4-dioxane (50 mL) was degassed by repeated evacuation and filling with nitrogen. Bis(triphenylphosphine)palladium(II) chloride (0.545 g, 0.78 mmol) was added, the reaction again degassed, and then the mixture was brought to reflux under nitrogen. After 3 h TLC revealed some of the iodide still remained. Additional tin reagent (0.400 g, 1.34 mmol) and palladium catalyst (0.100 g, 0.14 mmol) were added and the mixture refluxed for 4 h. The reaction mixture was cooled to ambient temperature and concentrated under reduced pressure. The residue was dissolved in 20% methanol/chloroform, filtered through Celite and concentrated in vacuo. The crude solids were triturated with dichloromethane/diethyl ether, the solids filtered, washed with diethyl ether and dried in vacuo to give 4.200 g (98%) of the title compound. The following characteristics were noted:

reactant | (S)-N-[[3-(3-fluoro-4-iodophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CNC(C)=O)=O | C12H12FIN2O3
reactant | trimethyl(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)tin | 13.88 mmol, 4.150 g | C[Sn](C1=CC=C(C(C=C1)=O)OC)(C)C
reactant | tin | 1.34 mmol, 0.400 g | [Sn] | Sn
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | 0.14 mmol, 0.100 g | [Pd] | Pd
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.78 mmol, 0.545 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-N-[[3-[3-fluoro-4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 4.200 g, 98% | FC=1C=C(C=CC1C1=CC=C(C(C=C1)=O)OC)N1C(O[C@H](C1)CNC(C)=O)=O | C20H19FN2O5
